US07425568B2
2-(3-Methoxyphenyl)chroman-4,6-diol was prepared as described for 2-phenylchroman-4,6-diol in Example 8(a) starting from 6-hydroxy-2-(3-methoxyphenyl)-chroman-4-one. 1H NMR (400 MHz, d6-DMSO) δ: 8.82 (s, 1H), 7.31 (t, 1H, J 15.7, 7.9 Hz), 6.99-7.02 (m, 2H), 6.88-6.90 (m, 2H), 6.59 (d, 1H, J 8.7 Hz), 6.54 (dd, 1H, J 8.7, 2.8 Hz), 5.40 (d, 1H, J 7.0 Hz), 5.08 (d, 1H, J 11.5 Hz), 4.83-4.89 (m, 1H), 3.77 (s, 3H), 2.23-2.28 (m, 1H), 1.83-1.92 (m, 1H).

reactant | 2-phenylchroman-4,6-diol | C1(=CC=CC=C1)C1OC2=CC=C(C=C2C(C1)O)O | C15H14O3
reactant | 6-hydroxy-2-(3-methoxyphenyl)-chroman-4-one | OC=1C=C2C(CC(OC2=CC1)C1=CC(=CC=C1)OC)=O | C16H14O4
product | 2-(3-Methoxyphenyl)chroman-4,6-diol | COC=1C=C(C=CC1)C1OC2=CC=C(C=C2C(C1)O)O | C16H16O4
